US06150549
A one-liter autoclave equipped with a stirrer was charged in a nitrogen atmosphere with 77 grams (0.50 mol) of 3,5-diethyl-3-heptene, 134 grams (1.0 mol) of trichlorosilane and 24 grams (0.1mol) of 1,1'-azobis(cyclohexane-1-carbonitrile) and the mixture was reacted at a temperature of 130° C. for 5 days. The resulting reaction mixture was purified by distillation thereby obtaining 80 grams (0.28 mol) of 3,5-diethyl-4-trichlorosilylheptane. The structure of the resulting product was identified by 1H-NMR.

reactant | 3,5-diethyl-3-heptene | 0.50 mol, 77 grams | C(C)C(CC)=CC(CC)CC | C11H22
reactant | trichlorosilane | 1.0 mol, 134 grams | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1,1'-azobis(cyclohexane-1-carbonitrile) | 0.1mol, 24 grams | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 3,5-diethyl-4-trichlorosilylheptane | 0.28 mol, 80 grams, Yield: 55% | C(C)C(CC)C(C(CC)CC)[Si](Cl)(Cl)Cl | C11H23Cl3Si
